US07452911B2
3.41a 5-bromo-1-(2-pyrrolidin-1-yl-ethyl)-1H-benzimidazole
A solution of 904 mg (3.18 mmol) 4-bromo-N1-(2-pyrrolidin-1-yl-ethyl)-benzene-1,2-diamine in 5 mL formic acid is refluxed for 1.5 h. It is made alkaline with semisaturated NaHCO3 solution and extracted twice with 70 mL EtOAc. The organic phase is dried over MgSO4 and the solvent is eliminated i.vac.

reactant | 4-bromo-N1-(2-pyrrolidin-1-yl-ethyl)-benzene-1,2-diamine | 3.18 mmol, 904 mg | BrC=1C=C(C(=CC1)NCCN1CCCC1)N | C12H18BrN3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | 5-bromo-1-(2-pyrrolidin-1-yl-ethyl)-1H-benzimidazole | BrC1=CC2=C(N(C=N2)CCN2CCCC2)C=C1 | C13H16BrN3
